US06538015B1
8 g of 5-hydroxy-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester was added portionwise to a preformed mixture of 3.44 ml of dimethylformamide and 94 ml of phosphorus oxychloride at 0° C. under nitrogen. The mixture was then heated at 100° C. for 20 h. The mixture was evaporated under reduced pressure, the residue poured into ice-cold saturated sodium hydrogen carbonate and then extracted three times with dichloromethane. The combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated to give 9.1 g of 5-chloro-4-formyl-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester as a light brown solid which was used without further purification. Mass spectrum (ESI) m/z 245 [M+H]+.

reactant | 5-hydroxy-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | 8 g | C(C)OC(=O)C1=NN(C(=C1)O)C(C)C | C9H14N2O3
reactant | phosphorus oxychloride | 94 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 3.44 ml | CN(C=O)C | C3H7NO
product | 5-chloro-4-formyl-1-isopropyl-1H-pyrazole-3-carboxylic acid ethyl ester | 9.1 g | C(C)OC(=O)C1=NN(C(=C1C=O)Cl)C(C)C | C10H13ClN2O3
